US08034812B2
Production of 3-amino-4-fluorophenyl methyl carbonate hydrochloride
To a solution (20 mL) of 2-chloro-4-fluoro-5-nitrophenyl methyl carbonate (1.00 g, 4.0 mmol) in methanol was added 20% palladium hydroxide on carbon (0.4 g) under a nitrogen atmosphere. The reaction mixture was stirred under a hydrogen atmosphere at room temperature for 5 days. After nitrogen replacement, the catalyst was filtered off. The solvent was evaporated from the filtrate under reduced pressure, and the residue was recrystallized from diethyl ether to give the title compound (759 mg, 86%) as a pale-green powder.

reactant | 2-chloro-4-fluoro-5-nitrophenyl methyl carbonate | 4.0 mmol, 20 mL, 1.00 g | C(OC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl)(OC)=O | C8H5ClFNO5
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide on carbon | 0.4 g | [OH-].[OH-].[Pd+2]
product | 3-amino-4-fluorophenyl methyl carbonate hydrochloride | 759 mg, 86% | Cl.C(OC1=CC(=C(C=C1)F)N)(OC)=O | InChI=1S/C8H8FNO3.ClH/c1-12-8(11)13-5-2-3-6(9)7(10)4-5;/h2-4H,10H2,1H3;1H
